US05364955
N-(3-Triethoxysilylpropyl) aspartic acid diethyl ester
221.0 g (1.0 mol) of 3-aminopropyltriethoxysilane were introduced into a standard stirrer apparatus. 172.0 g (1.0 mol) of maleic acid diethyl ester were added dropwise at room temperature over a period of about 4 hours. The exothermic reaction was maintained at about 30° C. by cooling the apparatus in a water bath. Stirring was then continued for a further 8 hours at room temperature. A clear, colorless liquid having a viscosity of about 30 mPa.s (23° C.) was obtained. Base titration showed almost complete conversion. The amine equivalent weight was about 398 g (theory: 393 g).

reactant | 3-aminopropyltriethoxysilane | 1.0 mol, 221.0 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | maleic acid diethyl ester | 1.0 mol, 172.0 g | C(C)OC(\C=C/C(=O)OCC)=O | C8H12O4
product | N-(3-Triethoxysilylpropyl) aspartic acid diethyl ester | C(C)OC([C@@H](NCCC[Si](OCC)(OCC)OCC)CC(=O)OCC)=O | C17H35NO7Si
